US07728129B2
(4-Isopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone, dihydrochloride monohydrate salt
A solution of (4-isopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl -phenyl)-methanone (2.0 g, 6.0 mmol) in absolute EtOH (20 mL) was treated with HCl(g) (0.5 g, 13.7 mmol) at room temperature. The resulting suspension was stirred for 1 h, and then MTBE (5 mL) was added. The suspension was cooled to 0° C. and filtered. The filter cake was washed with MTBE (20 mL), and the solid was dried in a vacuum oven at 60° C. for 20 h to yield crude title compound as a white solid.

reactant | (4-isopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl -phenyl)-methanone | 6.0 mmol, 2.0 g | C(C)(C)N1CCN(CC1)C(=O)C1=CC=C(C=C1)CN1CCOCC1 | C19H29N3O2
reactant | HCl | 13.7 mmol, 0.5 g | Cl | ClH
reactant | MTBE | 5 mL | CC(C)(C)OC | C5H12O
solvent | EtOH | 20 mL | CCO | C2H6O
product | (4-Isopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone, dihydrochloride monohydrate | O.Cl.Cl.C(C)(C)N1CCN(CC1)C(=O)C1=CC=C(C=C1)CN1CCOCC1 | InChI=1S/C19H29N3O2.2ClH.H2O/c1-16(2)21-7-9-22(10-8-21)19(23)18-5-3-17(4-6-18)15-20-11-13-24-14-12-20;;;/h3-6,16H,7-15H2,1-2H3;2*1H;1H2
